US07576215B2
{3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}[(3-METHYL-1-BENZOTHIEN-2-YL)METHYL]AMINE
This compound was prepared according to the procedure of example 66, substituting 3-(3-benzyl-8-trifluoromethyl-quinolin-4-yl)-phenylamine and 3-methyl benzo[b]thiophene-2-carbaldehyde. MS (ESI) m/z 539.

reactant | 3-(3-benzyl-8-trifluoromethyl-quinolin-4-yl)-phenylamine | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)C(F)(F)F | C23H17F3N2
reactant | 3-methyl benzo[b]thiophene-2-carbaldehyde | CC=1C2=C(SC1C=O)C=CC=C2 | C10H8OS
product | {3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}[(3-METHYL-1-BENZOTHIEN-2-YL)METHYL]AMINE | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC=1SC2=C(C1C)C=CC=C2)C(F)(F)F | C33H25F3N2S
